US08648087B2
Step C: Preparation of 7-(benzyloxy)[1,2,4]triazolo[4,3-a]pyridine:
To a solution of 1-(4-(benzyloxy)pyridin-2-yl)hydrazine (3.52 g, 16.35 mmol) in trimethoxymethane (20 mL, 16.35 mmol) was added 4-methylbenzenesulfonic acid (2.816 g, 16.35 mmol). After heating to 60° C. for 2 hours, the reaction mixture was concentrated under reduced pressure. The residue was chromatographed (ethyl acetate and 20:1 dichloromethane/methanol) to provide the product (2.33 g, 63%).

reactant | 1-(4-(benzyloxy)pyridin-2-yl)hydrazine | 16.35 mmol, 3.52 g | C(C1=CC=CC=C1)OC1=CC(=NC=C1)NN | C12H13N3O
reactant | trimethoxymethane | 16.35 mmol, 20 mL | COC(OC)OC | C4H10O3
reactant | 4-methylbenzenesulfonic acid | 16.35 mmol, 2.816 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
product | 7-(benzyloxy)[1,2,4]triazolo[4,3-a]pyridine | 2.33 g, 63% | C(C1=CC=CC=C1)OC1=CC=2N(C=C1)C=NN2 | C13H11N3O
